US05455252
6-pentyl-8-bromoquinoline and 3,4-dichlorobenzene boronic acid can be combined to form 6-pentyl-8-(3,4-dichlorophenyl)quinoline,

reactant | 6-pentyl-8-bromoquinoline | C(CCCC)C=1C=C2C=CC=NC2=C(C1)Br | C14H16BrN
reactant | 3,4-dichlorobenzene boronic acid | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
product | 6-pentyl-8-(3,4-dichlorophenyl)quinoline | C(CCCC)C=1C=C2C=CC=NC2=C(C1)C1=CC(=C(C=C1)Cl)Cl | C20H19Cl2N
